US07115750B1
N-(5,6,7,8-Tetrahydro-3-quinolinyl)acetamide
10% Palladium-carbon (200 mg) was added to a methanol solution (68 ml) of 3-nitro-5,6,7,8-tetrahydroquinoline (2.41 g], 13.5 mmol) obtained in 2), which was stirred under hydrogen atmosphere for 16 hours. After a catalyst was filtered off, the solvent was distilled out under reduced pressure. The resulting residue was dissolved in pyridine (35 ml). Anhydrous ethyl acetate (1.91 ml, 20.3 mmol) was added to the solution, which was stirred at room temperature for 1 hour. After completion of the reaction, the solvent was distilled out under reduced pressure. Diisopropyl ether-n-hexane (1:8) was added to the resulting residue, to give the titled compound (2.48 g) as a colorless powder.

reactant | 3-nitro-5,6,7,8-tetrahydroquinoline | [N+](=O)([O-])C=1C=NC=2CCCCC2C1 | C9H10N2O2
reactant | ethyl acetate | 20.3 mmol, 1.91 ml | C(C)(=O)OCC | C4H8O2
catalyst | Palladium-carbon | 200 mg | [C].[Pd]
solvent | methanol | 68 ml | CO | CH4O
product | N-(5,6,7,8-Tetrahydro-3-quinolinyl)acetamide | 2.48 g | N1=CC(=CC=2CCCCC12)NC(C)=O | C11H14N2O
